US07342115B2
A mixture of (2,6-dichloro-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-pyrrolidin-1-yl-methanone (200 mg, 0.48 mmol), 2,6-diethyl-phenyl boronic acid (85 mg, 0.48 mmol), Na2CO3 (2 M aqueous solution, 0.48 mL, 0.96 mmol), and Pd(PPh3)4 (50 mg) is refluxed in toluene (10 mL) for 18 hours and cooled to room temperature. Methylboronic acid (286 mg, 4.78 mmol), Na2CO3 (2 M aqueous solution, 0.48 mL, 0.96 mmol), and Pd(PPh3)4 (50 mg) are added to the mixture. The resulting mixture is refluxed in toluene for another 18 hours and then cooled to room temperature. Hexane (20 mL) and 1 N NaOH (2 mL) are added. The organic layer is separated, washed with brine, dried over sodium sulfate, and solvent removed. The crude product is purified by flash column (4:1 hexane:EtOAc) to give (6-(2,6-diethyl-phenyl)-2-methyl-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-pyrrolidin-1-yl-methanone. 1H NMR (CDCl3) 7.51 (m, 1H), 7.28 (m, 1H), 7.14-6.98 (m, 6H), 4.02-3.80 (m, 3H), 3.65 (m, 2H), 3.25 (m, 2H), 2.75-2.34 (m, 5H), 2.10 (m, 4H), 2.05-1.85 (m, 9H), 1.76 (m, 2H), 1.03 (t, 6H).

reactant | (2,6-dichloro-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-pyrrolidin-1-yl-methanone | 0.48 mmol, 200 mg | ClC1=NC(=CC(=C1CN(C1CCCC2=CC=CC=C12)C)C(=O)N1CCCC1)Cl | C22H25Cl2N3O
reactant | 2,6-diethyl-phenyl boronic acid | 0.48 mmol, 85 mg | C(C)C1=C(C(=CC=C1)CC)B(O)O | C10H15BO2
reactant | Na2CO3 | 0.96 mmol, 2 M, 0.48 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Methylboronic acid | 4.78 mmol, 286 mg | CB(O)O | CH5BO2
reactant | Na2CO3 | 0.96 mmol, 2 M, 0.48 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Hexane | 20 mL | CCCCCC | C6H14
product | (6-(2,6-diethyl-phenyl)-2-methyl-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-pyrrolidin-1-yl-methanone | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C)CN(C1CCCC2=CC=CC=C12)C)C(=O)N1CCCC1 | C33H41N3O
